US08669266B2
(ii) 4-[(S)-3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-2-tert-butoxycarbonylamino-propionyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 836 mg (S)-3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-2-tert-butoxycarbonylamino-propionic acid in 20 ml DMF were added 0.61 ml N-ethylmorpholine, 0.79 g TOTU and 449 mg Piperazine-1-carboxylic acid butyl ester. After stirring for 2 h the reaction mixture was concentrated, diluted with ethyl acetate and washed with aqueous LiCl (4%), 0.1 M HCl, saturated aqueous NaHCO3 and brine. The crude product obtained was used without further purification. Yield: 1.14 g.

reactant | (S)-3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-2-tert-butoxycarbonylamino-propionic acid | 836 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H22N4O4
reactant | N-ethylmorpholine | 0.61 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 0.79 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | Piperazine-1-carboxylic acid butyl ester | 449 mg | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-[(S)-3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-2-tert-butoxycarbonylamino-propionyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC=1N=NN(C1)CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C26H38N6O5
